US04299845
Preparation of N,N'-BIS-(3-TRIFLUOROMETHYL-4-NITROPHENYL)TRANS-1,2-CYCLOHEXANEDICARBOXAMIDE
Reflux a mixture of 16.73 g (0.08 moles) of trans-1,2-cyclohexane dicarboxylic acid chloride and 32.96 g (0.16 moles) of 3-trifluoromethyl-4-nitroaniline in 250 ml of benzene for 1.5 hours. Isolate the solid product of this example by filtering, washing well with hot benzene followed by ether and obtain analytically pure material by recrystallization from benzenemethanol, mp 249.5°-251° C. (dec.).

reactant | trans-1,2-cyclohexane dicarboxylic acid chloride | 0.08 moles, 16.73 g | [C@@H]1([C@@H](CCCC1)C(=O)Cl)C(=O)Cl | C8H10Cl2O2
reactant | 3-trifluoromethyl-4-nitroaniline | 0.16 moles, 32.96 g | FC(C=1C=C(N)C=CC1[N+](=O)[O-])(F)F | C7H5F3N2O2
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | N,N'-BIS-(3-TRIFLUOROMETHYL-4-NITROPHENYL)TRANS-1,2-CYCLOHEXANEDICARBOXAMIDE | FC(C=1C=C(C=CC1[N+](=O)[O-])NC(=O)[C@H]1[C@@H](CCCC1)C(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)(F)F | C22H18F6N4O6
